US09359680B2
2,6-bis(1-methylbenzimidazol-2-yl)pyridine (Mebimpy)
This ligand was prepared by a modification of the procedure reported for 2,6-bis(benzimidazol-2-yl)pyridine.4 A mixture of pyridine-2,6-dicarboxylic acid (3.35 g, 20 mmol) and N-methyl-1,2-phenylenediamine (5.38 g, 44 mmol) in 40 mL of 85% phosphoric acid was stirred at ca 230° C. for 4 h. The dark green melt was poured into 1 L of vigorously stirred cold water. After it was cooled to room temperature, the blue precipitate was collected by filtration, then slurried into 300 mL of hot aqueous sodium carbonate solution (10%). The resulting solid was filtered off and recrystallized from methanol to give a white solid. Yield: 5.77 g, 85%. 1H NMR (CDCl3): δ 8.42 (d, 2H), 8.05 (t, 1H), 7.86-7.89 (m, 2H), 7.44-7.48 (m, 2H), 7.33-7.41 (m, 4H), 4.25 (s, 6H, 2CH3). This ligand was pure by 1H-NMR and was used without further purification.

reactant | 2,6-bis(benzimidazol-2-yl)pyridine | N1=C(NC2=C1C=CC=C2)C2=NC(=CC=C2)C=2NC1=C(N2)C=CC=C1 | C19H13N5
reactant | pyridine-2,6-dicarboxylic acid | 20 mmol, 3.35 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | N-methyl-1,2-phenylenediamine | 44 mmol, 5.38 g | CNC1=C(C=CC=C1)N | C7H10N2
reactant | water | O | H2O
solvent | phosphoric acid | 40 mL | P(O)(O)(O)=O | H3O4P
product | 2,6-bis(1-methylbenzimidazol-2-yl)pyridine | CN1C(=NC2=C1C=CC=C2)C2=NC(=CC=C2)C2=NC1=C(N2C)C=CC=C1 | C21H17N5
